US08487108B2
To a solution of 1 M R-CBS-oxazaborolidine in toluene (13.8 mL, 13.8 mmol, 0.15 eq) and 10 M BH3 in THF (9.2 mL, 92.4 mmol, 1.0 eq) at −15° C. under nitrogen was added dropwise a solution of (R)-tert-butyl 3-(3-chloro-4-fluorobenzoyl)piperidine-1-carboxylate (31.5 g, 92.4 mmol) in anhydrous THF (300 mL). After addition, the reaction mixture was stirred for 1 hr at rt. Methanol (200 mL) was added dropwise carefully at 0° C. The solvent was removed under reduced pressure to provide the crude product. The crude product was dissolved in EtOAc till the alcohol was just dissolved (about 5 mL/1 g), the solvent was removed on the rotary evaporator until a few crystals appeared. To the above solution was added petroleum ether (about 300 mL) under stirring, which was allowed to stir at rt for 2 hr and then filtered, the crystals were washed with petroleum ether and re-crystallized 6 times to afford the (R)-tert-butyl 3-((R)-(3-chloro-4-fluorophenyl)(hydroxy)methyl)piperidine-1-carboxylate (10 g, 32%, 93% e.e.). 1H NMR (CD3OD, 400 MHZ) δ 7.44 (d, 1H), 7.25 (d, 1H), 7.20 (t, 1H), 4.34 (d, 1H), 4.20 (s, 1H), 3.93 (d, 1H), 2.68 (m, 2H), 1.62 (m, 2H), 1.41 (s, 9H), 1.32 (m, 2H), 1.21 (m, 1H).

reactant | toluene | 13.8 mmol, 13.8 mL, 0.15 eq | C1(=CC=CC=C1)C | C7H8
reactant | (R)-tert-butyl 3-(3-chloro-4-fluorobenzoyl)piperidine-1-carboxylate | 92.4 mmol, 31.5 g | ClC=1C=C(C(=O)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C=CC1F | C17H21ClFNO3
reactant | Methanol | 200 mL | CO | CH4O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 92.4 mmol, 9.2 mL, 1.0 eq | C1CCOC1 | C4H8O
product | (R)-tert-butyl 3-((R)-(3-chloro-4-fluorophenyl)(hydroxy)methyl)piperidine-1-carboxylate | 10 g, 32% | ClC=1C=C(C=CC1F)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)O | C17H23ClFNO3
